US04686220
2-Hydroxy-3-[methyl[2-[methyl(phenylmethyl)amino]ethyl]amino]-1,4-naphthalenedione
A mixture of 2.61 g of 2,3-epoxy-2,3-dihydro-1,4-naphthoquinone, 2.67 g of N-benzyl-N,N'-dimethylethylenediamine and 150 ml of absolute ethanol was stirred for 20 hours, then concentrated to one-half its original volume and refrigerated overnight. The solvent was removed, the residue dissolved in dichloromethane and passed through a pad of hydrous magnesium silicate and silica, eluting first with dichloromethane, then with 1% methanol in dichloromethane. The active fraction was flash chromatographed eluting with dichloromethane followed by 2% methanol in dichloromethane. The active fraction was evaporated and the residue triturated in dichloromethane/hexane giving 900 mg of the desired product, mp 121°-123° C.

reactant | 2,3-epoxy-2,3-dihydro-1,4-naphthoquinone | 2.61 g | O1C2C(C3=CC=CC=C3C(C21)=O)=O | C10H6O3
reactant | N-benzyl-N,N'-dimethylethylenediamine | 2.67 g | C(C1=CC=CC=C1)N(CCNC)C | C11H18N2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-Hydroxy-3-[methyl[2-[methyl(phenylmethyl)amino]ethyl]amino]-1,4-naphthalenedione | OC=1C(C2=CC=CC=C2C(C1N(CCN(CC1=CC=CC=C1)C)C)=O)=O | C21H22N2O3
